US06903120B2
1-Propyl-4-(3-trifluoromethyl-phenyl)-piperidine
Beginning with 4-(3-Trifluoromethyl-phenyl)-piperidine and n-Pr-I: m.p. 195° C. (HCl), MS m/z (rel. intensity, 70 eV) 271 (M+, 4), 243 (16), 242 (bp), 159 (13), 70 (49).

reactant | 4-(3-Trifluoromethyl-phenyl)-piperidine | FC(C=1C=C(C=CC1)C1CCNCC1)(F)F | C12H14F3N
reactant | n-Pr-I | C(CC)I | C3H7I
reactant | HCl | Cl | ClH
product | 1-Propyl-4-(3-trifluoromethyl-phenyl)-piperidine | C(CC)N1CCC(CC1)C1=CC(=CC=C1)C(F)(F)F | C15H20F3N
